US07989637B2
5-[5-(1-Methoxy-ethyl)-[1,2,4]triazol-1-yl]-4′-methyl-biphenyl-3-carboxylic acid was subject to the amide coupling reaction described in step 4 of Example 6, but replacing 2-amino-propan-1-ol with 1-pyrazin-2-yl-ethylamine, to give 5-[5-(1-methoxy-ethyl)-[1,2,4]triazol-1-yl]-4′-methyl-biphenyl-3-carboxylic acid (1-pyrazin-2-yl-ethyl)-amide, MS (M+H)=443.

reactant | 5-[5-(1-Methoxy-ethyl)-[1,2,4]triazol-1-yl]-4′-methyl-biphenyl-3-carboxylic acid | COC(C)C1=NC=NN1C=1C=C(C=C(C1)C1=CC=C(C=C1)C)C(=O)O | C19H19N3O3
reactant | 1-pyrazin-2-yl-ethylamine | N1=C(C=NC=C1)C(C)N | C6H9N3
product | 5-[5-(1-methoxy-ethyl)-[1,2,4]triazol-1-yl]-4′-methyl-biphenyl-3-carboxylic acid (1-pyrazin-2-yl-ethyl)-amide | N1=C(C=NC=C1)C(C)NC(=O)C=1C=C(C=C(C1)N1N=CN=C1C(C)OC)C1=CC=C(C=C1)C | C25H26N6O2
